Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pelvic mass
 
Major Surgical or Invasive Procedure:
laparoscopic hysterectomy, bilateral salpingo-oophorectomy, 
cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ G1, P1 who underwent an abdominal 
ultrasound to evaluate for abdominal aortic aneurysm given her 
strong history of tobacco use by her primary care physician.  
That ultrasound revealed a large pelvic mass.  She then 
underwent a CT scan on ___ which revealed a large mass within 
the pelvis measuring 9.9 x 12.2 x 10.3 cm with internal locules 
corresponding to the area of nodularity identified in 
ultrasound.  The mass was intensely associated with the left 
ovary and closely abuts the uterine fundus.  While there is no 
clear fat plane seen between the mass and uterus, it is believed 
to be of ovarian in origin rather than uterine.  There are 
scattered sigmoid diverticula.  No free fluid in the pelvis.  
Bladder and rectum are unremarkable and there are no enlarged 
pelvic or inguinal lymph nodes.  She states that she has been 
asymptomatic from this mass.  Today, she has no complaints.  She
denies any vaginal bleeding, abdominal pain, nausea, vomiting, 
change in bladder or bowel habits.

 
Past Medical History:
PAST MEDICAL HISTORY:  Significant for breast cancer status post
lumpectomy and adjuvant radiation, diabetes, hypertension,
hypercholesterolemia, and depression.

PAST SURGICAL HISTORY:  Laparoscopic cholecystectomy and a right
breast lumpectomy.

OB AND GYN HISTORY:  She is a gravida 1, para 1 with one
spontaneous vaginal delivery.  Her last menstrual period was 
when
she was in her ___, menarche at age ___ with regular periods
lasting four to five days.  No history of abnormal Pap smears. 
Her last Pap was in ___, which was negative.  No history of
sexually transmitted infections, cysts or fibroids.

 
Social History:
___
Family History:
She denies any family history of GYN malignancies.

 
Physical Exam:
Pre-operative exam: 
GENERAL:  Well-appearing, no acute distress.
CARDIOVASCULAR:  Regular rate and rhythm, no murmurs.
LUNGS:  Clear to auscultation bilaterally.
BACK:  No CVA or spinal tenderness.
ABDOMEN:  Soft, nontender, nondistended.  No masses appreciated. 

No hernias.
EXTREMITIES:  No edema.
LYMPHATICS:  No supraclavicular or inguinal lymphadenopathy.
PELVIC:  Normal external female genitalia.  Speculum exam
revealed paracervix.  No lesions present.  Bimanual exam 
revealed
a normal-sized uterus.  Mass was difficult to appreciate
secondary to body habitus.  Rectovaginal exam revealed no
nodularity or masses appreciated.  Normal rectal tone.

Exam on discharge: 
GENERAL:  Well-appearing, no acute distress.
CARDIOVASCULAR:  Regular rate and rhythm, no murmurs.
LUNGS:  Clear to auscultation bilaterally.
BACK:  No CVA or spinal tenderness.
ABDOMEN:  Soft, nontender, nondistended. Incision clean, dry, 
intact EXTREMITIES:  No edema. Non tender

 
Pertinent Results:
___ 09:22AM BLOOD WBC-10.3# RBC-3.50*# Hgb-11.3*# 
Hct-33.3*# MCV-95 MCH-32.3* MCHC-33.9 RDW-14.8 Plt ___
___ 09:22AM BLOOD Neuts-73.2* Lymphs-17.7* Monos-8.5 
Eos-0.3 Baso-0.3
___ 09:22AM BLOOD Glucose-232* UreaN-14 Creat-1.1 Na-141 
K-4.6 Cl-103 HCO3-30 AnGap-13
___ 09:22AM BLOOD Calcium-8.4 Phos-2.5* Mg-2.2

CTA (___): 1. Worsening emphysema. 2. No pulmonary embolus. 
3. Bibasilar atelectasis at the lung bases. 4. 3-mm nodule in 
the right middle lobe. Consider followup in six months to 
document stability. 5. Hepatic steatosis. 

CXR (___): No acute intrathoracic process.
 
Brief Hospital Course:
Ms. ___ underwent total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy and cystoscopy.  Please see Dr. ___ 
___ for full details.  Post-operatively she was admitted to the 
gyn oncology service.  

On POD#1 Ms. ___ started to have some oxygen desaturations 
requiring oxygen via nasal cannula.  CTA on ___ revealed 
worsening emphysema when compared to previously but no pulmonary 
emboli.  CXR ___ did not reveal any acute intrathoracic 
process.  She was started on chest physical therapy and 
albuterol and atrovent nebulizers.  By POD#3 she was able to be 
weaned off of oxygen.  

Post-operatively her BPs and finger sticks were within normal 
limits. By POD#3 she was able to ambulate, tolerate a regular 
diet, control her pain with oral pain medications and void 
spontaneously.  She was discharged in good condition on POD#3 
with follow-up. 
 
Medications on Admission:
ATENOLOL -  (Prescribed by Other Provider) - 50 mg Tablet - 2
Tablet(s) by mouth daily
GEMFIBROZIL -  (Prescribed by Other Provider) - 600 mg Tablet - 
1
Tablet(s) by mouth twice a day
LISINOPRIL - 20 mg Tablet - 1 Tablet(s) by mouth day
METFORMIN -  (Prescribed by Other Provider) - 500 mg Tablet
Extended Release 24 hr - 1 Tablet(s) by mouth evening
PAROXETINE HCL -  (Prescribed by Other Provider) - 40 mg Tablet 
-
1 Tablet(s) by mouth morning
ROSUVASTATIN [CRESTOR] -  (Prescribed by Other Provider) - 40 mg
Tablet - 1 Tablet(s) by mouth evening
 
Medications - OTC
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 500 + D] -  (Prescribed by
Other Provider; ___) - Dosage uncertain
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D] -  (OTC) - Dosage
uncertain
MULTIVITAMIN -  (OTC) -   Tablet - 1 Tablet(s) by mouth morning
OMEGA-3 FATTY ACIDS-VITAMIN E [FISH OIL] -  (Prescribed by Other
Provider) - Dosage uncertain

 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
3. paroxetine HCl 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily). Tablet(s) 
4. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
7. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) puff Inhalation three times a day as needed for 
shortness of breath or wheezing.
Disp:*1 * Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
large left ovarian cyst, pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment
* Nothing in the vagina (no tampons, no douching, no sex) x 6 
weeks, no heavy lifting of objects >10lbs for 6 weeks.    
* You may eat a regular diet.  

Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.   
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


We will give you a prescription for an albuterol inhaler. You 
likely will need more medication or therapy for your lungs, 
please follow-up with pulmonology whom we have contacted on your 
behalf.
 
Followup Instructions:
___